US09315521B2
To a 0° C. solution of 3-(pyrrolidin-1-yl)pent-2-enoate (3.4 g, 17.2 mmol), 1-nitropropane (2.0 mL, 22.2 mmol), and triethylamine (7.5 mL, 53.4 mmol) in anhydrous chloroform (20 mL) was added a solution of phosphoryl trichloride (4.0 mL, 42.9 mmol) in anhydrous chloroform (6 mL) via syringe pump (1 hour). The reaction mixture was allowed to warm to room temperature and stirred overnight. The mixture was then stirred at reflux for 1 hour. After cooling to room temperature, the mixture was extracted with water (3×20 mL), 2 N HCl (2×20 mL), and brine (1×20 mL). The organic layer was recovered, dried over MgSO4, filtered, evaporated, and dried in vacuo. The crude product was purified by flash chromatography (0-15% ethyl acetate/hexane), affording ethyl 3,5-diethyl-1,2-oxazole-4-carboxylate (830 mg, 25%).

reactant | 3-(pyrrolidin-1-yl)pent-2-enoate | 17.2 mmol, 3.4 g | N1(CCCC1)C(=CC(=O)[O-])CC
reactant | 1-nitropropane | 22.2 mmol, 2.0 mL | [N+](=O)([O-])CCC | C3H7NO2
reactant | triethylamine | 53.4 mmol, 7.5 mL | C(C)N(CC)CC | C6H15N
reactant | phosphoryl trichloride | 42.9 mmol, 4.0 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 6 mL | C(Cl)(Cl)Cl | CHCl3
product | ethyl 3,5-diethyl-1,2-oxazole-4-carboxylate | 830 mg, 25% | C(C)C1=NOC(=C1C(=O)OCC)CC | C10H15NO3
